US07405210B2
Preparation 14: 1H-Pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester
To a solution of 3-(3-nitropyridin-4-yl)-2-oxopropionic acid ethyl ester (Preparation 13, 500 mg, 2.1 mmol) in ethanol (20 mL) and THF (10 mL) was added saturated ammonium chloride solution (10 mL) and iron powder (700 mg, 12.6 mmol). The reaction was heated under reflux for 1 h, then filtered through celite and washed through with hot ethyl acetate (3×30 mL). The combined organic fractions were washed with brine (20 mL), dried (MgSO4) and concentrated in vacuo to give the title compound as a brown solid. δH (CD3OD): 1.44 (3H, t), 4.43 (2H, q), 7.21 (1H, s), 7.69 (1H, d), 8.12 (1H, d), 8.80 (1H, s).

reactant | 3-(3-nitropyridin-4-yl)-2-oxopropionic acid ethyl ester | 2.1 mmol, 500 mg | C(C)OC(C(CC1=C(C=NC=C1)[N+](=O)[O-])=O)=O | C10H10N2O5
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | iron | 12.6 mmol, 700 mg | [Fe] | Fe
product | 1H-Pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC=2C(=CN=CC2)N1 | C10H10N2O2
